US05716956
Preparation of 4-(4-Aminophenyl)-1,2-dihydro-1-ethyl-2-methylcarbamoyl-6,7-methylendioxyphthalazine
A solution of 4-(4-acetylaminophenyl)-1,2-dihydro-1-ethyl-2-methylcarbamoyl-6,7-methylendioxyphthalazine (45 mg, 0.11 mmole) in 1N sodium hydroxide (4 mL) and methanol (6 mL) was heated to reflux for 72 hours. The mixture was cooled to ambient temperature, diluted with EtOAc (30 mL), washed with water (25 mL), dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica gel with 25% hexanes/EtOAc to afford the product as a light yellow foamy solid (35 mg, 90%). 200 MHz 1H NMR (CDCl3); δ7.42 (d, 2H, J=8.1 Hz, ArH), 6.82 (s, 1H, ArH), 6.76 (d, 2H, J=8.1 Hz, ArH), 6.70 (s, 1H, ArH), 6.50 (brq, 1H, J=5.4 Hz, NHCH3), 5.59 (d, 2H, J=2.7 Hz, OCH2O), 5.48 (t, 1H, J=6.8 Hz, CHCH2), 2.93 (d, 3H, J=5.4 Hz, NHCH3), 1.64 (m, 2H, CHCH2 CH3), 0.87 (t, 3H, J=8.1 Hz, CH2CH3).

reactant | 4-(4-acetylaminophenyl)-1,2-dihydro-1-ethyl-2-methylcarbamoyl-6,7-methylendioxyphthalazine | 0.11 mmole, 45 mg | C(C)(=O)NC1=CC=C(C=C1)C1=NN(C(C2=CC3=C(C=C12)OCO3)CC)C(NC)=O | C21H22N4O4
solvent | sodium hydroxide | 1N, 4 mL | [OH-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-(4-Aminophenyl)-1,2-dihydro-1-ethyl-2-methylcarbamoyl-6,7-methylendioxyphthalazine | 35 mg, 90% | NC1=CC=C(C=C1)C1=NN(C(C2=CC3=C(C=C12)OCO3)CC)C(NC)=O | C19H20N4O3
